Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OTOLARYNGOLOGY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Cochlear implant dysfunction
 
Major Surgical or Invasive Procedure:
AD revision cochlear implant

 
History of Present Illness:
Mr. ___ is a ___ yo male who presents to ___ clinic
as a new patient consultation requested by Dr. ___, MD for evaluation of hearing loss and cochlear implant
evaluation. The patient presents today with his sister for
evaluation who is his POA and is interviewed with the assistance
of an interpreter. He reports progressive hearing loss over the
course of the past ___ years. He underwent procedure in the right
ear approximately ___ years ago for hearing loss which likely was
stapedectomy. He reports progression of hearing loss over the
course of the past ___ years. The patient also has a history of
retinitis pigmentosa. He denies vestibular difficulties.

He had AD cochlear implantation on ___. Unfortunately, when the 
implant was activated, he had significant nausea and vomiting. 
CT subsequently showed migration of the implant. He now presents 
for revision.
 
Past Medical History:
PMH: 
COLONIC POLYPS  
HYPERTENSION  
RETINITIS PIGMENTOSA  
BENIGN PROSTATIC HYPERTROPHY  
SENSORINEURAL HEARING LOSS  
DEPRESSION  
RASH  
HYPERLIPIDEMIA  
PRE-DIABETES  
ABNORMAL LIVER FUNCTION TESTS 
 
PSH: 
Right Ear Surgery 
 
Social History:
___
Family History:
Family History: 
Hearing loss - Mother          
Balance disorders - Denies
Tumors - Denies
Cardiovascular disease - Denies
Malignancy - Denies
Bleeding/Clotting Disorders - Denies
Anesthesia Problems - Denies
Other - Brother blindness
 
Physical ___:
BP: 108/69. Heart Rate: 75. Weight: 160. Height: 63. BMI: 28.3.
Temperature: 96.6. O2 Saturation%: 98.
General: non-toxic, NAD
Psych: normal mood and affect
Resp: Breathing comfortably, no stridor, no stertor
Derm: gross examination of the skin of the head and neck reveals
no masses or lesions
Ophth: no conjunctival erythema or sclera icterus
MS: ambulatory with assistance
Neuro: HB ___ bilaterally
Oral: normal, moist oral mucosa
Nasal: grossly midline nasal septum and dorsum, normal inferior
turbinate, normal mucosa
Binocular Microscopy
Right Ear: EAC with gelfoam. This was removed to reveal intact
TM. Posterior fascia noted.  
 
Pertinent Results:
Audiogram (___):
Right:  moderate severe to profound sensorineural hearing loss
SDS- 42%
Tympanometry- A, normal pressure, compliance, and volume

Left: profound sensorineural hearing loss
SDS- CNT
Tympanometry- A, normal pressure, compliance, and volume

Cochlear Implant Evaluation: 
Auditec of ___ word list (RIGHT unaided): 42% 
Auditec of ___ word list (LEFT unaided): CNT 
Auditec of ___ word list (aided): 36% 

CT of Temporal Bones:
1.  Bilateral fenestral and cochlear otosclerosis, more 
extensive
on the left. 
2.  Mild symmetric widening of the internal auditory canals,
which may be congenital or developmental, and less likely 
related
to mass lesions. MRI of the internal auditory canals without and
with intravenous contrast should be considered if clinically
indicated. 
3.  The osseous structures of the cochlea and labyrinth appear
normally formed bilaterally. 
4.  The anterior wall of the superior semicircular canal is
markedly thin, 0.3-0.4 mm, but not dehiscent. 
5.  Symmetric underpneumatization of bilateral mastoid air 
cells.

 
Brief Hospital Course:
The patient tolerated the procedure without intra-operative 
complications. Please refer to the operative note for full 
operative detail. The patient was extubated in the OR and 
transferred to the PACU in stable condition. The patient 
initially recovered in the PACU before being transferred to the 
floor in stable condition. His pain was well controlled on 
parental narcotics. He had nausea in the PACU and this was 
controlled with parenteral medications. His diet was slowly 
advanced on POD 0 and on day of discharge he was tolerating a 
regular diet. The remainder of the hospital 
course was relatively unremarkable, and pt was discharged in 
stable condition, ambulating independently, and with adequate 
pain control.  Pt was given explicit instructions to follow-up 
with Dr. ___ PCP ___ ___ days. Pt was given detailed 

discharge instruction outlining wound care, activity, diet, 
follow up and the appropriate medication scripts.
 
Medications on Admission:
1. Acetaminophen 650 mg PO Q6H 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Fluocinonide 0.05% Ointment 1 Appl TP BID 
5. Fluoxetine 20 mg PO DAILY 
6. Fluticasone Propionate NASAL 1 SPRY NS DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Tamsulosin 0.4 mg PO QHS 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Amoxicillin 500 mg PO Q8H 
3. Fluoxetine 20 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Losartan Potassium 50 mg PO DAILY 
7. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
8. Tamsulosin 0.4 mg PO QHS 
9. Aspirin 81 mg PO DAILY 
OK to restart on ___. PredniSONE 60 mg PO DAILY Duration: 2 Doses 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
11. PredniSONE 50 mg PO DAILY Duration: 1 Dose 
Start: After 60 mg DAILY tapered dose 
12. PredniSONE 40 mg PO DAILY Duration: 1 Dose 
Start: After 50 mg DAILY tapered dose 
13. PredniSONE 30 mg PO DAILY Duration: 1 Dose 
Start: After 40 mg DAILY tapered dose 
14. PredniSONE 20 mg PO DAILY Duration: 1 Dose 
Start: After 30 mg DAILY tapered dose 
15. PredniSONE 10 mg PO DAILY Duration: 1 Dose 
Start: After 20 mg DAILY tapered dose 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AD cochlear implant displacement

 
Discharge Condition:
Stable

 
Discharge Instructions:
Instructions After Surgery
You were in the hospital for surgery.  It is normal to feel 
tired or washed out after surgery. Rest is important and will 
help you feel better. Walking is also important. It will help 
prevent problems and help you feel stronger and have more 
energy.  Just remember to pace yourself and rest when you feel 
tired.
Follow these important instructions below:
- Keep your dressing in place for 48 hours after surgery. This 
may be removed on ___.
What medications do I need to take?
-Take your pain medicine the way your doctor tells you to. 
o Do not drink alcohol, drive, or use machinery while you are 
taking narcotic pain medicine.
o As your pain lessens, decrease the amount of pain medicine you 

are taking.
-Narcotic pain medicine can cause constipation. To make it 
easier to have a bowel movement:
o Drink extra water and other fluids like juice, tea, and broth.
o Take a stool softener like docusate.  Docusate is also called 
Colace. You can buy it over the counter.
-Resume all of your other home medications unless advised 
otherwise.
What activities am I allowed at home?
-Walking is encouraged.  
-Do not do any strenuous exercise like aerobics, running or 
weight lifting until your surgeon says it is ok.
-Do not lift more than 10 pounds for ___ weeks. Ten pounds is as 

heavy as a gallon of milk. 
How do I care for my incisions?
-It is ok to leave your incisions uncovered.  You may also cover 

them with dry gauze if your incisions are draining or to protect 

them from irritation.
-Do not shower or get wound wet for 48 hours after drain is 
removed. After this you may shower normally.  Do not scrub your 
incision.  Gently wash with soapy water and pat wound dry 
afterwards.  Please do not immerse wound in bath, swimming, or 
sauna for ___ weeks or until wound completely healed/closed.

Follow up information
-Please go to your scheduled follow up appointment with your 
surgeon.
-Please follow up with your primary care physician ___ ___ 
weeks for a post-operative follow up.
-Call your surgeon if you have any questions.  Call the clinic 
during regular business hours.  If after hours or on the 
weekend, call the hospital operator at ___ and ask to 
page the ENT resident on call.
 
Followup Instructions:
___